US07294635B2
In a dry flask was combined trifluoromethanesulfonic acid 7-fluoro-2-(4-nitro-phenyl)-1-oxo-1,2-dihydro-isoquinolin-6-yl ester (0.86 g, 2 mmol), t-butyl carbamate (0.33 g, 2.8 mmol), dry powdered cesium carbonate (1.1 g, 3.4 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (Xantphos, 0.14 g, 0.24 mmol), and tris(dibenzylideneacetone)dipalladium(0) (Pd2dba3, 38 mg, 0.08 mmol). Under Ar atmosphere, dry THF (17 mL) was added to the flask, and the mixture was stirred at 75° C. for 25 hr. The reaction was concentrated and purified on silica gel using EtOAc/hexane as eluent to give 0.64 g (80%) of pure [7-Fluoro-2-(4-nitro-phenyl)-1-oxo-1,2-dihydro-isoquinolin-6-yl]-carbamic acid tert-butyl ester as a white solid. RP-HPLC: 5.98 min; ES-MS (M+H)+=400.0; 1H-NMR (DMSO-d6) δ (ppm): 1.47 (s, 9), 6.77 (d, 1), 7.46 (d, 1), 7.78 (d, 2), 7.87 (d, 1), 8.17 (d, 1), 8.33 (d, 2), 9.54 (s, 1).

reactant | trifluoromethanesulfonic acid 7-fluoro-2-(4-nitro-phenyl)-1-oxo-1,2-dihydro-isoquinolin-6-yl ester | 2 mmol, 0.86 g | FC1=C(C=C2C=CN(C(C2=C1)=O)C1=CC=C(C=C1)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C16H8F4N2O6S
reactant | t-butyl carbamate | 2.8 mmol, 0.33 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | cesium carbonate | 3.4 mmol, 1.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.24 mmol, 0.14 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.08 mmol, 38 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | [7-Fluoro-2-(4-nitro-phenyl)-1-oxo-1,2-dihydro-isoquinolin-6-yl]-carbamic acid tert-butyl ester | 0.64 g, 80% | C(C)(C)(C)OC(NC=1C=C2C=CN(C(C2=CC1F)=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C20H18FN3O5
